US04711952
(c) Benzyloxycarbonylseryl-asparaginyl-phenylalanine methyl ester
Benzyloxycarbonylserine (8.4 g; 35 mmoles), N-ethylpiperidine (4.9 ml) and pyridine (3.5 ml) in dichlormethane (100 ml) cooled to -20° C. are treated under constant stirring with pivaloylchloride (4.4 ml); the mixture is stirred and cooled (0° C.) a further 8 minutes. After that, within 2 to 3 minutes, a solution of asparaginyl-phenylalanine methyl ester, liberated from its hydrobromide (13.1 g; 35 mmoles) by the addition of N-ethylpiperidine (4.9 ml), in dichloromethane (100 ml) is added. The reaction mixture is stirred for 2 hours at room temperature and evaporated. The noncrystalline residue is dissolved in ethyl acetate and the solution is successively washed with 1 M hydrochloric acid, water, 5% sodium hydrogencarbonate and water, dried over anhydrous sodium sulfate, and evaporated, after which the residue is crystallized from methanol. The yield is 9.1 g (51%), m.p. 180°-183° C. A sample is recrystallized from the same solvent and has m.p. 184°-186° C. Rf 0.71/S1, 0.82/S2. [α]D20 -13.8° (c 0.2; methanol). Composition: C25H30N4O8.

reactant | Benzyloxycarbonylserine | 35 mmoles, 8.4 g | C(C1=CC=CC=C1)OC(=O)N[C@@H](CO)C(=O)O | C11H13NO5
reactant | N-ethylpiperidine | 4.9 ml | C(C)N1CCCCC1 | C7H15N
reactant | pivaloylchloride | 4.4 ml | C(C(C)(C)C)(=O)Cl | C5H9ClO
reactant | asparaginyl-phenylalanine methyl ester | COC([C@@H](NC([C@@H](N)CC(N)=O)=O)CC1=CC=CC=C1)=O | C14H19N3O4
reactant | hydrobromide | 35 mmoles, 13.1 g | Br | BrH
reactant | N-ethylpiperidine | 4.9 ml | C(C)N1CCCCC1 | C7H15N
solvent | dichlormethane | 100 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
solvent | pyridine | 3.5 ml | N1=CC=CC=C1 | C5H5N
product | Benzyloxycarbonylseryl-asparaginyl-phenylalanine methyl ester | COC([C@@H](NC([C@@H](NC([C@@H](NC(=O)OCC1=CC=CC=C1)CO)=O)CC(N)=O)=O)CC1=CC=CC=C1)=O | C25H30N4O8
